US06518423B1
8-Trifluoromethyl-6-dimethylaminopurine
0.306 g of 4,5-diamino-6-dimethylaminopyrimidine was dissolved in 20 ml of trifluoroacetic anhydride. Then the reaction mixture was introduced into a steel container. After sealing, it was heated to 100° C. for 14 hours. The reactor was opened at room temperature and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.073 g of the title compound as white crystals.

reactant | 4,5-diamino-6-dimethylaminopyrimidine | 0.306 g | NC1=NC=NC(=C1N)N(C)C | C6H11N5
reactant | trifluoroacetic anhydride | 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 8-Trifluoromethyl-6-dimethylaminopurine | 0.073 g | FC(C1=NC2=NC=NC(=C2N1)N(C)C)(F)F | C8H8F3N5
